US06518285B2
A solution of 10.0 g (72.67 mmol) 3-hydroxypiperidine in 100 mL dry THF at 0° C. was added 10.1 mL (72.67 mmol) NEt3 and 15.86 g (72.67 mmol) di-t-butylcarbonate in 100 mL THF and the reaction allowed to warm to rt and stirred overnight. The solvent was removed under reduced pressure, the resulting residue dissolved in 300 mL CH2Cl2 and the solution extracted with H2O (2×200 mL), dried over MgSO4, filtered and rotary evaporated to yield 12.66 g (87%) of N-(t-butoxycarbonyl)-3-piperidinol as an oil which slowly solidified to a white solid.

reactant | 3-hydroxypiperidine | 72.67 mmol, 10.0 g | OC1CNCCC1 | C5H11NO
reactant | NEt3 | 72.67 mmol, 10.1 mL | CCN(CC)CC | C6H15N
reactant | di-t-butylcarbonate | 72.67 mmol, 15.86 g | C(C)(C)(C)OC(OC(C)(C)C)=O | C9H18O3
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | N-(t-butoxycarbonyl)-3-piperidinol | 12.66 g, 87% | C(C)(C)(C)OC(=O)N1CC(CCC1)O | C10H19NO3
